US07105503B2
Preparation of 3-fluoro-4-(morpholin-4-yl)methylphenylamine
To a solution of 4-(2-fluoro-4-nitrobenzyl)morpholine (240 mg, 1.0 mmol) in THF/ethanol mixture (1:1) (25 mL) was added a catalytical amount of Raney-Ni and hydrazine hydrate (9.0 mmol) and the mixture was stirred at ambient temperature for 15 minutes, filtered through a Celite pad. The filtrate was evaporated to provide the title compound, (197 mg, 94%), which was used in further reactions without purification.

reactant | 4-(2-fluoro-4-nitrobenzyl)morpholine | 1.0 mmol, 240 mg | FC1=C(CN2CCOCC2)C=CC(=C1)[N+](=O)[O-] | C11H13FN2O3
reactant | hydrazine hydrate | 9.0 mmol | O.NN
solvent | THF ethanol | 25 mL | C1CCOC1.C(C)O
catalyst | Ni | [Ni] | Ni
product | 3-fluoro-4-(morpholin-4-yl)methylphenylamine | 197 mg, 94% | FC=1C=C(C=CC1CN1CCOCC1)N | C11H15FN2O
